US07767665B2
4-Trifluoromethylthiosalicylic acid
A mixture of 2-amino-4-trifluoromethylbenzoic acid (5.0 g, 24 mmol), sodium hydroxide (1.0 g, 25 mmol), sodium nitrite (1.7 g, 24 mmol) and water (40 ml) was added dropwise to a mixture of concentrated hydrochloric acid (10 ml) and ice (10 g) while the reaction temperature had been kept at 0 to 5° C. The reaction mixture was stirred at the same temperature for 30 minutes, neutralized with potassium acetate and added to a solution of potassium O-ethyl dithiocarbonate (11.7 g, 73 mmol) in water (40 ml). The reaction mixture was stirred at 80° C. for 20 minutes and acidified by use of concentrated hydrochloric acid to pH 3. The water layer was separated, and the oily substance was added to 10% aqueous sodium hydroxide solution (25 g) and stirred at 80° C. for 2 hrs. Sodium hydrosulfite (3 g) was added to the mixture, and the mixture was stirred at 80° C. for 10 minutes. The reaction mixture was filtered and the filtrate was cooled and acidified by use of concentrated hydrochloric acid to pH 4. The precipitated crystals were collected by filtration, dissolved in methanol (5 ml) and diisopropylether (100 ml) and dried. The solvent was evaporated under reduced pressure to give the titled compound (4.1 g, 77%).

reactant | 2-amino-4-trifluoromethylbenzoic acid | 24 mmol, 5.0 g | NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H6F3NO2
reactant | sodium hydroxide | 25 mmol, 1.0 g | [OH-].[Na+]
reactant | sodium nitrite | 24 mmol, 1.7 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | potassium O-ethyl dithiocarbonate | 73 mmol, 11.7 g | C([S-])(OCC)=S.[K+]
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 4-Trifluoromethylthiosalicylic acid | 4.1 g, 77% | FC(C=1C=C(C(C(=O)O)=CC1)S)(F)F | C8H5F3O2S
